US04017606
In the manner given in Example 2D, cytidine 5'-diphosphate was hydrogenated in dilute ammonium hydroxide in the presence of a rhodium on alumina catalyst, and the mixture separated with a Craig extractor to give 4-hydroxy-1-β-D-ribofuranosyl-tetrahydro-2(1H)-pyrimidinone uridine 5'-diphosphate and 1-β-D-ribofuranosyl-tetrahydro-2(1H)-pyrimidinone 5'-diphosphate.

reactant | cytidine 5'-diphosphate | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)N=C(N)C=C1)O)O | C9H15N3O11P2
reactant | ammonium hydroxide | [OH-].[NH4+]
catalyst | rhodium on alumina | [Rh] | Rh
product | 4-hydroxy-1-β-D-ribofuranosyl-tetrahydro-2(1H)-pyrimidinone uridine 5'-diphosphate | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C=C1)O)O.OC1NC(N(CC1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO)=O | InChI=1S/C9H14N2O12P2.C9H16N2O6/c12-5-1-2-11(9(15)10-5)8-7(14)6(13)4(22-8)3-21-25(19,20)23-24(16,17)18;12-3-4-6(14)7(15)8(17-4)11-2-1-5(13)10-9(11)16/h1-2,4,6-8,13-14H,3H2,(H,19,20)(H,10,12,15)(H2,16,17,18);4-8,12-15H,1-3H2,(H,10,16)/t4-,6-,7-,8-;4-,5?,6-,7-,8-/m11/s1
